### PR TITLE
Classifying spaces and fibrations

### PR DESCRIPTION
**Pull request by jarlg**
Complete rewrite and expansion of `ObjectClassifier.v` in the first commit. (Recommend using split view, since the diff isn't great.) In the second commit these results are used to classify fiber sequences and maps into `BAut X`. Some comments:

In `ObjectClassifier.v`, the statements involving pointed maps use 3 universes instead of the 2 required on paper. This is because`pMap` is defined via `pForall`, whereas if we'd used something like
```coq
Definition pMap A B := { f : A -> B & f (point A) = B }.
```
then these statements should only require 2 universes. I managed to squash it down to 2 in `equiv_pfiber_fibration_pfibration`, but haven't been able to (and doubt it's possible) elsewhere.

I've chosen to work with the right endpoint fixed on the equivalence on fibers, in order to correspond with the paths in `hfiber` and the paths in the current definition of `BAut`. This makes `equiv_pfiber_pfibration_fibration` a bit more fiddly than otherwise, and also doesn't correspond to the choice for `FiberSeq`. But otherwise it seemed to make things flow most nicely.

At the end of `ObjectClassifier.v`, I'm sure `equiv_pmap_typeO_type_connected` can be proved more directly without univalence.

### CODE REVIEW

File: theories/ObjectClassifier.v [hunk 1]
```diff
@@ -1,118 +1,189 @@
...
 
-(* This is generalized in Functorish.v *)
-Theorem transport_exp (U V:Type)(w:U<~>V): forall (f:U->A),
-  (transport (fun I:Type => I->A) (path_universe w) f) = (f o w^-1).
+Definition sigma_fibration@{u v} {Y : Type@{u}} (P : Y -> Type@{u}) : Fib@{u v} Y
+  := (sig@{u u} P; pr1).
+
+(* This is generalized in Functorish.v. *)
+Theorem transport_exp `{Univalence} {A : Type} (U V : Type) (w : U <~> V)
+  : forall f : U -> A, transport (fun E : Type => E -> A) (path_universe w) f = (f o w^-1).
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:19]: I wonder if this result should be moved to near `transport_path_universe`?

File: theories/ObjectClassifier.v [hunk 2]
```diff
@@ -1,118 +1,189 @@
...
+    + apply transport_exp.
+  - intro P.
+    funext y; cbn.
+    exact ((path_universe (@hfiber_fibration  _ y P))^).
+Defined.
+
+(** Theorem 4.8.3. *)
+Definition equiv_sigma_fibration `{Univalence} {Y : Type@{u}}
+  : (Y -> Type@{u}) <~> { X : Type@{u} & X -> Y }
+  := Build_Equiv _ _ (@sigma_fibration Y) isequiv_sigma_fibration.
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:47]: If you want, you could replace the third argument to `Build_Equiv` with `_`.

File: theories/ObjectClassifier.v [hunk 3]
```diff
@@ -1,118 +1,189 @@
...
-Local Definition help_objclasspb_is_fibrantreplacement (P:A-> Type): (sig P)->
-  (Pullback P (@pr1 _ (fun u :Type => u))):=
-(fun (X : {a : A & P a}) => (fun (a : A) (q : P a) => (a; ((P a; q); 1))) X.1 X.2).
+Local Notation "( X , x )" := (Build_pType X x).
 
-Local Definition help_objclasspb_is_fibrantreplacement2 (P:A-> Type):
- (Pullback P (@pr1 _ (fun u :Type => u))) -> (sig P).
-intros [a [[T t] p]]. exact (a;(transport (fun X => X) (p^) t)).
+(** Fibrations over [B] with fiber [F] correspond to pointed maps into the universe pointed at [F]. *)
+Proposition equiv_sigma_fibration_p@{u +} `{Univalence} {Y : pType@{u}} {F : Type@{u}}
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:78]: Probably we should list all variables mentioned `@{u v +}` or list none of them (since Coq seems happy with this).

File: theories/ObjectClassifier.v [hunk 4]
```diff
@@ -1,118 +1,189 @@
...
+Proof.
+  refine (_ oE (issig_pmap _ _)^-1).
+  srapply (equiv_functor_sigma' equiv_sigma_fibration); intro P; cbn.
+  refine (_ oE (equiv_path_universe@{u u v} _ _)^-1%equiv).
+  refine (equiv_functor_equiv _ equiv_idmap).
+  apply hfiber_fibration.
 Defined.
 
-Lemma objclasspb_is_fibrantreplacement (P:A-> Type): (sig P) <~> (Pullback P (@pr1 _ (fun u :Type => u))).
+(** If the fiber [F] is pointed we may upgrade the right-hand side to fiber sequences. *)
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:88]: I don't know if "fiber sequences" automatically means pointed things, so it might be better to say "pointed fiber sequences"?  (Search for other similar usages too.)

File: theories/ObjectClassifier.v [hunk 5]
```diff
@@ -1,118 +1,189 @@
...
-           IsPfibered (pr2 (p2f A (pr1 o P))). 
+Definition equiv_sigma_pfibration `{Univalence} {Y F : pType@{u}}
+  : (Y ->* (Type@{u}, F)) <~> { p : pFib Y & pfiber p.2 <~>* F}
+  := equiv_pfiber_fibration_pfibration oE equiv_sigma_fibration_p.
+
+(** * The classifier for O-local types *)
+
+(** Families of O-local types correspond to fibrations with O-local fibers. *)
+Theorem equiv_sigma_fibration_O@{u v} `{Univalence} {O : Subuniverse} {A : Type@{u}}
+  : (A -> Type_@{u v} O) <~> { p : { X : Type@{u} & X -> A } & MapIn O p.2 }.
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:118]: Is there a reason to switch from `Y` to `A` for the base space?

And should the RHS use `Fib A` instead of the unfolded sigma type?

File: theories/ObjectClassifier.v [hunk 6]
```diff
@@ -1,118 +1,189 @@
...
+(** We consider a pointed base [Y], and the universe of O-local types [Type_ O] pointed at some O-local type [F]. *)
 
-Local Definition Pfam2pow_pf (F:PFam)(a:A):isP (f2p A F.1 a). 
-unfold f2p. by destruct F as [[I f] p].
-Qed.
+(** Pointed maps into [Type_ O] correspond to O-local fibrations with fiber [F] over the base point of [Y]. *)
+Proposition equiv_sigma_fibration_Op `{Univalence} {O : Subuniverse}
+            {Y : pType@{u}} {F : Type@{u}} `{inO : In O F}
+  : (Y ->* (Type_ O, (F; inO)))
+      <~> { p : { p : Fib Y & MapIn O p.2 } & hfiber p.1.2 (point Y) <~> F }.
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:133]: `p` used twice in the above line.

File: theories/ObjectClassifier.v [hunk 7]
```diff
@@ -1,118 +1,189 @@
...
+Proof.
+  refine (_ oE (issig_pmap _ _)^-1); cbn.
+  srapply (equiv_functor_sigma' equiv_sigma_fibration_O); intro P; cbn.
+  refine (_ oE (equiv_path_sigma_hprop _ _)^-1%equiv); cbn.
+  refine (_ oE (equiv_path_universe _ _)^-1%equiv).
+  refine (equiv_functor_equiv _ equiv_idmap).
+  exact (hfiber_fibration (point Y) _).
+Defined.
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:141]: Is there a way to unify any of this proof with the earlier very similar proof?

File: theories/ObjectClassifier.v [hunk 8]
```diff
@@ -1,118 +1,189 @@
...
+Proposition equiv_sigma_fibration_Op_connected `{Univalence} {O : Subuniverse}
+            {Y : pType@{u}} `{IsConnected 0 Y} {F : Type@{u}} `{inO : In O F}
+  : (Y ->* (Type_ O, (F; inO)))
+       <~> { p : Fib Y & hfiber p.2 (point Y) <~> F }.
+Proof.
+  refine (_ oE equiv_sigma_fibration_Op).
+  refine (_ oE (equiv_sigma_assoc' _ (fun p _ => hfiber p.2 (point Y) <~> F))^-1%equiv).
+  srapply equiv_functor_sigma_id; intro; cbn.
+  refine (_ oE equiv_sigma_prod0 _ _).
+  apply equiv_prod_contr_l; intro e.
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:153]: These two lines could be replaced with:
```coq
  refine (_ oE equiv_sigma_symm0 _ _).
  apply equiv_sigma_contr; intro e.
```
But the current way is also fine.  If kept, the proofs of `equiv_prod_contr_l` and `_r` could be replaced with a short proof like this (even shorter for `_r`).

File: theories/ObjectClassifier.v [hunk 9]
```diff
@@ -1,118 +1,189 @@
...
-- by apply path_sigma_hprop.
+  refine (_ oE equiv_sigma_fibration_Op).
+  (** We juggle the [MapIn O] term to the outermost sigma. *)
+  refine (equiv_sigma_assoc _ _ oE _ oE (equiv_sigma_assoc _ _)^-1).
+  refine ((_)^-1 oE _ oE _).
+  1,3: rapply equiv_functor_sigma_id; unfold pr1; intro p; apply equiv_sigma_symm0.
+  refine (_ oE equiv_sigma_assoc _ (fun p => MapIn _ p.1.2)).
+  refine ((equiv_sigma_assoc _ (fun p:({ p : pFib Y & pfiber p.2 <~>* F }) => MapIn _ p.1.2))^-1 oE _).
+  (** Now it's just [equiv_pfiber_fibration_pfibration] on the base, and reflexivity on the fibers. *)
+  by rapply (equiv_functor_sigma' equiv_pfiber_fibration_pfibration).
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:175]: Almost all steps are juggling.  Does `make_equiv` handle the bulk of it?

File: theories/Pointed/pEquiv.v [hunk 10]
```diff
@@ -114,5 +114,23 @@ Definition equiv_pequiv_precompose `{Funext} {A B C : pType} (f : A <~>* B)
...
+  srapply equiv_adjointify.
+  - exact (fun g => f o* g).
+  - exact (fun g => f^-1* o* g).
+  - intro g.
+    apply path_pforall.
+    by apply moveR_pequiv_Mf.
+  - intro g.
+    apply path_pforall.
+    by apply moveR_pequiv_Vf.
+Defined.
```
Comment (jdchristensen) [inline theories/Pointed/pEquiv.v:128]: What was wrong with the previous proof?

File: theories/Truncations/Connectedness.v [hunk 11]
```diff
@@ -192,6 +192,18 @@ Proof.
     exact (center (merely X)).
 Defined.
 
+(** If the fiber of a map into a pointed, connected type is O-local, then the map is O-local. *)
+Lemma mapinO_inO_fiber_connected@{u v} `{Univalence} (O : Subuniverse)
+      {A B : Type@{u}} (b0 : B) `{IsConnected 0 B} (f : A -> B)
+  : In O (hfiber f b0) -> MapIn O f.
```
Comment (jdchristensen) [inline theories/Truncations/Connectedness.v:198]: I didn't think hard about this, but this kind of result is a general idiom that gets repeated.  In some other work, I'm using the `n=-1` case of the result below to handle such things.
```
(** To prove an [n]-truncated predicate on an (n+1)-connected, pointed type, it's enough to prove it for the basepoint. *)
(** Not sure what a good name for this is.  It can also be proved by combining [conn_map_elim] and [conn_point_incl].  We'll use it when [n] is -1. *)
Definition forall_isconn_istrunc `{Univalence} (n : trunc_index) {A : pType} `{IsConnected n.+1 A}
           (P : A -> Type) `{forall a, IsTrunc n (P a)} (p0 : P (point A))
  : forall a, P a.
Proof.
  intro a.
  (** Since [A] is [n+1]-connected, [a0 = a] is [n]-connected, which means that [Tr n (a0 = a)] has an element. *)
  pose proof (p := center _ : Tr n ((point A) = a)).
  strip_truncations.
  exact (p # p0).
Defined.
```
If this does help here, maybe you can add it somewhere?

**Review by jdchristensen — COMMENTED** [review]
First commit reviewed.

File: theories/Spaces/BAut.v [hunk 12]
```diff
@@ -2,21 +2,25 @@
...
 Local Open Scope path_scope.
 
 (** * BAut(X) *)
 
 (** ** Basics *)
 
 (** [BAut X] is the type of types that are merely equal to [X]. It is connected, by [is0connected_component]. *)
-Definition BAut@{u v} (X : Type@{u}) : Type@{v}
-  := sig@{v v} (fun Z => merely (paths@{v} Z X)).
+Definition BAut (X : Type@{u}) := { Z : Type@{u} & merely (Z = X) }.
```
Comment (jdchristensen) [inline theories/Spaces/BAut.v:15]: Did you think about what we discussed about using Aji's PR to make this a special case of Type_ O?  That can of course be left for the future if you don't want to try it here.

File: theories/Spaces/BAut.v [hunk 13]
```diff
@@ -236,3 +240,68 @@ Section Center2BAut.
...
+  Proposition pequiv_pbaut_typeOp `{Univalence} {F : Type@{u}}
+    : pBAut F <~>* Build_pType (Type_@{u v} (subuniverse_merely_equiv F)) (F; tr equiv_idmap).
+  Proof.
+    snrapply Build_pEquiv'; cbn.
+    1: exact equiv_baut_typeO.
+    by apply path_sigma_hprop.
+  Defined.
+
+  Definition equiv_pmap_pbaut_pfibration `{Univalence} {Y F : pType@{u}}
+    : (Y ->* pBAut F) <~> { p : { p : pFib Y & forall y:Y, merely (hfiber p.2 y <~> F) } &
```
Comment (jdchristensen) [inline theories/Spaces/BAut.v:288]: `p` repeated here too.  Check for other places.

**Review by jdchristensen — COMMENTED** [review]
Second commit reviewed.  Nice!

File: theories/ObjectClassifier.v [hunk 14]
```diff
@@ -1,118 +1,189 @@
...
+          {Y F : pType} `{IsConnected 0 Y} `{inO : In O F}
+  : (Y ->* (Type_ O, (pointed_type F; inO)))
+      <~> { p : pFib Y & pfiber p.2 <~>* F }
+  := equiv_pfiber_fibration_pfibration oE equiv_sigma_fibration_Op_connected.
+
+(** As a corollary, pointed maps into the unverse of O-local types are just pointed maps into the universe, when the base [Y] is connected. *)
+Definition equiv_pmap_typeO_type_connected `{Univalence} {O : Subuniverse}
+      {Y : pType@{u}} `{IsConnected 0 Y} {F : Type@{u}} `{inO : In O F}
+  : (Y ->* (Type_ O, (F; inO))) <~> (Y ->* (Type@{u}, F))
+  := equiv_sigma_fibration_p^-1 oE equiv_sigma_fibration_Op_connected.
```
Comment (jdchristensen) [inline theories/ObjectClassifier.v:189]: I agree that this shouldn't use univalence.  It should be true for pointed maps from a pointed, connected type `Y` to any pointed type `U` with a pointed sub-type `{ u : U & H u}` (so `H` is an hprop).

File: theories/ObjectClassifier.v (hunk 1 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:19]: Agree. I renamed it `transport_arrow_toconst_path_universe` to correspond with the naming in `Types.Arrow` which already considers the "exp" type family.

File: theories/ObjectClassifier.v (hunk 3 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:78]: Sometimes Coq produces a different ordering of the universe variables than what I'd prefer, which does happen here. Without the specification you get 
```coq
equiv_sigma_fibration_p@{u u0 v} : Univalence -> forall (Y : pType@{u}) (F : Type@{u}),
(Y ->* (Type@{u}, F)) <~> {p : Fib@{u v} Y & hfiber@{u u} p.2 (point@{u} Y) <~> F}
(* u u0 v |= u < v
             v < u0 *)
```
where the `u0` is the parameter coming from `pMap` being defined via `pForall`. In this case it's troublesome to specify `u0` and I'd prefer to have it at the end; `u` and `v` are the only variables you'd think about on paper.

This ends up not mattering here, but when I was working to get the universe levels right I had to add this type of annotation in order to make it easier to specify universes for a bunch of stuff. I'll remove it here, but I think there is a case for preferring to have the variables you'd think about on paper at the start, and the extraneous stuff at the end.

File: theories/ObjectClassifier.v (hunk 4 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:88]: In the library, the only place fiber sequences are discussed (as far as I can tell) is in `Homotopy/ExactSequence`, where the type `FiberSeq F X Y` is equivalent to the RHS I'm referring to here. In May's "A Concise Course.. " he defines fiber sequences in terms of based maps in chapter 6.5 (p59 in my copy). I can certainly add "pointed", perhaps in parentheses. Would you prefer that? I think your judgement is best here.

File: theories/ObjectClassifier.v (hunk 5 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:118]: No, that's a typo on my part :) I switched to `Y` in order to correspond with the notation `FiberSeq F X Y` in `Homotopy/ExactSequence`.

File: theories/ObjectClassifier.v (hunk 6 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:133]: That's intentional, I'm thinking of `p` as the map `p : X -> Y` and (to me) using multiple variables for that doesn't clarify anything. (Of course, my own notation isn't confusing to me.) You'd prefer I'd change to e.g. the following?
```coq
{ p : { q : Fib Y & MapIn O q.2 } & hfiber p.1.2 (point Y) <~> F }.
```

File: theories/ObjectClassifier.v (hunk 7 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:141]: I could deduce the earlier version (`equiv_sigma_fibration_p`) by specializing this result (`equiv_sigma_fibration_Op`) to the identity modality. I'll see if that saves a line or two.

Comment (jarlg) [reply theories/ObjectClassifier.v:141]: What do you think about this?
```coq
Global Instance inO_purely {X : Type} : In purely X := _.
Global Instance mapinO_purely {X Y : Type} (f : X -> Y) : MapIn purely f := _.

Definition equiv_type_purely_type `{Funext}
  : Type_ purely <~> Type.
Proof.
  unfold Type_.
  rapply equiv_sigma_contr.
  intro X.
  rapply contr_inhabited_hprop.
Defined.

Definition pequiv_from_point {A B : Type} (a : A) (e : A <~> B)
  : (A,a) <~>* (B,e a).
Proof. Admitted.

Proposition equiv_sigma_fibration_p' `{Univalence} {Y : pType@{u}} {F : Type@{u}}
  : (Y ->* (Type@{u}, F)) <~> { p : Fib@{u v} Y & hfiber p.2 (point Y) <~> F }.
Proof.
  srefine (_ oE equiv_pequiv_postcompose (pequiv_from_point F equiv_type_purely_type^-1)).
  refine (_ oE equiv_sigma_fibration_Op).
  srapply equiv_functor_sigma'.
  1: { apply equiv_sigma_contr; intro q.
       rapply contr_inhabited_hprop. }
  reflexivity.
Defined.
```

File: theories/ObjectClassifier.v (hunk 8 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:153]: I prefer your proof and I'll remove `equiv_prod_contr_l` and `_r`, which can't use the sigma-proofs since `Types/Prod` cannot import `Types/Sigma` (the dependency goes the other way).

File: theories/ObjectClassifier.v (hunk 9 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:175]: This works, but is a tiny bit slower:
```coq
Proposition equiv_sigma_pfibration_O' `{Univalence} (O : Subuniverse)
            {Y F : pType} `{inO : In O F}
  : (Y ->* (Type_ O, (pointed_type F; inO)))
      <~> { p : { p : pFib Y & MapIn O p.2 } & pfiber p.1.2 <~>* F }.
Proof.
  refine (_ oE equiv_sigma_fibration_Op).
  equiv_via { p : { p : Fib Y & hfiber p.2 (point Y) <~> F } & MapIn O p.1.2 }.
  1: make_equiv.
  equiv_via { p : { p : pFib Y & pfiber p.2 <~>* F } & MapIn O p.1.2 }.
  2: make_equiv.
  by rapply (equiv_functor_sigma' equiv_pfiber_fibration_pfibration).
Defined.
```
What do you prefer? (I'm happy to have learned the usefulness of `make_equiv`, but since I've written out a direct proof which is faster and not much longer, I'm inclined to prefer the explicit version.)

File: theories/Pointed/pEquiv.v (hunk 10 above)
Comment (jarlg) [reply theories/Pointed/pEquiv.v:128]: It required `A B C` to be in the same universe, since they're objects in the same wild category (check the precompose version right above). This caused me trouble in e.g. `equiv_pmap_pbaut_pfibration` (next commit), where I'm mapping from a small type `Y` into `pBAut F`.

File: theories/ObjectClassifier.v (hunk 3 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:78]: I agree completely that the order matters.  What I am unhappy about is listing one universe variable `@{u +}` but referring to two, `u` and `v`.  If you care about the order, then list both:  `@{u v +}`.  If you don't care about the order, list neither.

File: theories/ObjectClassifier.v (hunk 4 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:88]: I don't think it will hurt to emphasize that the upgrade brings in *pointedness*, not *fibers*.

File: theories/ObjectClassifier.v (hunk 7 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:141]: I haven't compared the two approaches, but maybe it's not worth being roundabout like that.  I guess I was more wondering if some common steps of both proofs could be isolated as a lemma, but I didn't think about what form that would take.

File: theories/ObjectClassifier.v (hunk 6 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:133]: Definitely prefer that.  In the old one, `p.2` and `p.1.2` meant the same thing, which was weird.

File: theories/Pointed/pEquiv.v (hunk 10 above)
Comment (jdchristensen) [reply theories/Pointed/pEquiv.v:128]: I see.  I think you should add a comment saying that this follows from ..., but you need the flexibility to have things in different universes, so you give a direct proof.  I'm a bit surprised that universe cumulativity doesn't make it work, though...  Are you sure this proof is needed?

File: theories/ObjectClassifier.v (hunk 9 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:175]: I like this approach:
```coq
Definition equiv_sigma_symm' {A : Type} `(P : A -> Type) `(Q : A -> Type)
  : { ap : { a : A & P a } & Q ap.1 } <~> { aq : { a : A & Q a } & P aq.1 }.
Proof.
  make_equiv.
Defined.

Proposition equiv_sigma_pfibration_O' `{Univalence} (O : Subuniverse)
            {Y F : pType} `{inO : In O F}
  : (Y ->* (Type_ O, (pointed_type F; inO)))
      <~> { p : { q : pFib Y & MapIn O q.2 } & pfiber p.1.2 <~>* F }.
Proof.
  refine (_ oE equiv_sigma_fibration_Op).
  refine (_ oE equiv_sigma_symm' _ (fun q => hfiber q.2 (point Y) <~> F)).
  refine (equiv_sigma_symm' (fun q => pfiber q.2 <~>* F) _ oE _).
  by rapply (equiv_functor_sigma' equiv_pfiber_fibration_pfibration).
Defined.
```
The lemma at the start should obvious go near `equiv_sigma_symm`.

File: theories/ObjectClassifier.v (hunk 7 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:141]: I see that the last three lines are essentially the same, but the "lemma" that one could state for them would be pretty unnatural.  So I think you should just leave the code duplicated.

File: theories/ObjectClassifier.v (hunk 3 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:78]: However you do it, I guess `equiv_sigma_fibration_Op` should be done in the same way.  Right now, it is different.

File: theories/Truncations/Connectedness.v (hunk 11 above)
Comment (jarlg) [reply theories/Truncations/Connectedness.v:198]: This works wonderfully! Trying to find a place and name for it, I can read this as "pointed, n-truncated maps into (n+1)-connected types split". Is there somewhere in `Modalities/` with similar results? I'm struggling to find a home for it.

File: theories/ObjectClassifier.v (hunk 3 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:78]: Sorry, I realize I misread you initially. I'll make it `@{u v +}`.

File: theories/ObjectClassifier.v (hunk 7 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:141]: I don't see a natural common lemma that unifies the approaches, the conceptual fact is that one is a special case of the other. But actually specializing one to the other is more roundabout than just proving the special case directly. So if you're fine with it, I'll keep the previous proofs.

Edit: I didn't see your last comment when I commented, I see we're saying the same thing. Resolving.

File: theories/ObjectClassifier.v (hunk 9 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:175]: Nice!

File: theories/Spaces/BAut.v (hunk 12 above)
Comment (jarlg) [reply theories/Spaces/BAut.v:15]: I'd like to leave that for the future. Having the results in this PR will make it clearer to what extent a different approach is better, by seeing how it simplifies things.

I should say there are two competing alternative approaches to make `BAut X` a special case of `Type_ O`. Either use Aji's PR, or redefine to use equivalences. The latter is more in style with what's here in `ObjectClassifier.v` (which of course could have used paths on fibers instead of equivalences everywhere, but that didn't seem easier to me).

File: theories/ObjectClassifier.v (hunk 14 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:189]: Right, and in order to say `In O` is an hprop this will require `Funext` here. I'll give the hands-on proof another attempt using `make_equiv`, but since I don't need it I'd rather not spend much time wrestling with it.

File: theories/Pointed/pEquiv.v (hunk 10 above)
Comment (jarlg) [reply theories/Pointed/pEquiv.v:128]: I see what you're saying about cumulativity, but I really can't get the previous statement to work. When constructing `pBAut@{u v} F`, the constraint `u < v` is added and I think this hinders Coq in viewing `Y : pType@{u}` as an element of `pType@{v}`, despite cumulativity. Or do you have any further thoughts?

File: theories/Truncations/Connectedness.v (hunk 11 above)
Comment (jdchristensen) [reply theories/Truncations/Connectedness.v:198]: I think the Truncations/Connectivity.v file is the right place, even though there isn't anything currently very similar there.  It's related to `conn_point_incl` (and can be proved using it), but I think the direct proof is clearer.  So maybe somewhere after that result?  Not sure what a good name is.

File: theories/Spaces/BAut.v (hunk 12 above)
Comment (jdchristensen) [reply theories/Spaces/BAut.v:15]: Sounds good.

File: theories/Truncations/Connectedness.v (hunk 11 above)
Comment (jarlg) [reply theories/Truncations/Connectedness.v:198]: I think that's a fine placement. This is an induction principle for (n+1)-connected types into (families of) n-types. What do you think about `conn_to_trunc_ind`?

File: theories/ObjectClassifier.v (hunk 14 above)
Comment (jdchristensen) [reply theories/ObjectClassifier.v:189]: It does seem to be trickier than I expected.  Here's a rough stab at it.  The rewrites can certainly be eliminated, but I wonder if there's a different approach that would be easier.  Also note that it requires univalence after all, at least with this approach.  (Used in `forall_isconn_istrunc`.)  I think that univalence is probably necessary.  A different approach might use the general framework of image factorizations.  In any case, probably best to save this thought for a future PR.
```coq
Definition needs_a_name `{Univalence}
           {Y : pType} `{IsConnected (Tr 0) Y}
           {A : Type} (P : A -> Type) `{forall a, IsHProp (P a)}
           (a0 : A) (p0 : P a0)
  : (Y ->* (A, a0)) <~> (Y ->* ({a : A & P a}, (a0; p0))).
Proof.
  snrapply equiv_adjointify.
  - intros [f pt]; cbn in f, pt.
    snrapply Build_pMap.
    + intro y; cbn.
      exists (f y).
      exact (forall_isconn_istrunc (-1) (P o f) (pt^ # p0) y).
    + cbn.
      apply path_sigma_hprop; cbn.
      exact pt.
  - intros [f pt]; cbn in f, pt.
    snrapply Build_pMap.
    + intro y; cbn.
      exact (f y).1.
    + cbn.
      apply (ap pr1 pt).
  - cbn.
    intros [f pt]; cbn in f, pt.
    apply path_pforall.
    snrapply Build_pHomotopy.
    + cbn.
      intro y.
      apply path_sigma_hprop.
      reflexivity.
    + cbn.
      apply (equiv_inj pr1_path).
      refine (pr1_path_sigma _ _ @ _).
      unfold "..1".
      rewrite ap_pp.
      rewrite ap_pr1_path_sigma.
      symmetry. rewrite ap_V.
      apply concat_pV.
  - cbn.
    intros [f pt].
    apply path_pforall.
    snrapply Build_pHomotopy.
    + cbn.
      reflexivity.
    + cbn.
      rewrite ap_pr1_path_sigma.
      symmetry.
      apply concat_pV.
Defined.
```

File: theories/Truncations/Connectedness.v (hunk 11 above)
Comment (jdchristensen) [reply theories/Truncations/Connectedness.v:198]: That might be ok.  Maybe ask for suggestions when you make the PR in the main repo?

File: theories/Pointed/pEquiv.v (hunk 10 above)
Comment (jdchristensen) [reply theories/Pointed/pEquiv.v:128]: Oh, I see the problem.  Cumulativity works definitionally for `Type` but not for `pType`.  You can define
```coq
Definition pLift@{i j} (A : pType@{i}) := Build_pType@{j} A (point A).
```
and try to use `equiv_pequiv_postcompose (A := pLift@{u v} Y)`, but the output type still doesn't match, since `Y ->* W` and `pLift@{u v} Y ->* W` aren't definitionally equal.  One would need a separate lemma handling this, but then you may as well prove the general case with more flexible universes, as you do.  I don't see any way to work around this, which is really unfortunate.  I guess it's worth asking if anyone else has any ideas.

Comment (Alizter) [reply theories/Pointed/pEquiv.v:128]: Perhaps adding the `Cumulative` keyword to the definition of pType may fix the problem. This is a feature of coq that allows one to lift constructors from a lower universe to typecheck against inductive types in a higher universe. Unless I've misunderstood, that is what is happening here no?

We already use the keyword for the definition of paths and Equiv btw.

Comment (jarlg) [reply theories/Pointed/pEquiv.v:128]: Yep, by making both `pType` and `pForall` cumulative, the previous proof goes through. I guess that's the general, correct solution here. I'll open a PR to the main repo tomorrow, any thoughts on this before then?

File: theories/ObjectClassifier.v (hunk 14 above)
Comment (jarlg) [reply theories/ObjectClassifier.v:189]: I'll leave this as-is then, and someone can add a direct proof in the future if they wish. (Or we'll see what comments arise on the main PR.)

File: theories/Pointed/pEquiv.v (hunk 10 above)
Comment (jdchristensen) [reply theories/Pointed/pEquiv.v:128]: Ah, that's great to know!  Go ahead with the PR.
